* Wurlitzer 200A Tremolo Oscillator
* ==================================
* Twin-T (parallel-T) oscillator using TR-3 (2N2924 NPN) with
* TR-4 (2N2924 NPN) as LED driver buffer.
*
* Topology CORRECTED Feb 2026: This is a TWIN-T oscillator, NOT
* a phase-shift oscillator. The twin-T network forms a notch filter
* in the negative feedback path of TR-3. At the notch frequency,
* feedback is minimized and loop gain peaks, satisfying the
* Barkhausen criterion for oscillation.
*
* The twin-T has non-standard component ratios:
*   R_shunt/R_series = 27K/680K = 0.040 (standard = 0.5)
*   C_shunt/C_series = 0.12/0.12 = 1.0 (standard = 2.0)
* This produces a shallow notch (~-23.5 dB) rather than a deep null,
* making oscillation easier to start and sustain at the cost of
* waveform purity (mildly distorted sinusoidal, est. THD 3-10%).
*
* Calculated notch/oscillation frequency: ~5.3 Hz
* Service manual specification: approximately 6 Hz
* Measured instruments: 5.3-7 Hz (component tolerance explains spread)
*
* CIRCUIT TOPOLOGY (verified from schematic screenshots Feb 2026):
*
*   TR-3 and TR-4 share a common collector node (out).
*   R17 (4.7K) from Vcc to out is the only collector load for both.
*   In the real circuit, R17 is in series with LG-1 LED (pin 1=cathode),
*   with LED anode (pin 2) returning to Vcc via cable. For simulation
*   we approximate the LED path as a direct 4.7K to Vcc.
*
*   R15 (680K) pulls TR-3 base to GROUND (not Vcc!). The DC bias is set
*   by the voltage divider between:
*     - Twin-T DC feedback (R14+R13 = 1360K from collector to base)
*     - R15 (680K from base to ground)
*   This gives Vb3 ~ 1.25V (confirmed by Ebers-Moll: Vbe=0.57V at Ic~77uA).
*
*   TR-3 emitter connects directly to TR-4 base at the .68V junction.
*   R16 (10K) from this junction to ground provides the emitter DC path.
*   Most emitter current (~68uA) flows through R16; a small fraction
*   (~9uA) drives TR-4 base. TR-4 amplifies this to ~1.9mA, providing
*   the bulk of the shared collector current through 4.7K.
*
* Verified from docs/verified_wurlitzer_200A_series_schematic.pdf
*
* DC operating points:
*   TR-3: B=1.25V, E=0.68V, C=5.9V (shared)
*   TR-4: B=0.68V, E=0V, C=5.9V (shared)
*   Output swing: 11.5 Vpp (near rail-to-rail)

* --- Twin-T feedback network ---
* Connected between shared collector (out) and TR-3 base (base3).
*
* Path 1 (C-R-C highpass T):
*   out --[C17 .12uF]-- node_hp --[C16 .12uF]-- base3
*   with R12 (27K) from node_hp to GND
C17   out    node_hp  0.12U
C16   node_hp  base3    0.12U
R12   node_hp  0        27K

* --- Lowpass T branch ---
* Path 2 (R-C-R lowpass T):
*   out --[R14 680K]-- node_lp --[R13 680K]-- base3
*   with C18 (0.12uF) from node_lp to GND
R14   out    node_lp  680K
R13   node_lp  base3    680K
C18   node_lp  0        0.12U

* --- TR-3: Oscillator amplifier (2N2924 NPN, common-emitter) ---
* R15 (680K) pulls base to GROUND (bias pull-down).
* DC bias set by divider: twin-T DC path (1360K) vs R15 (680K).
* Collector connects to shared output bus.
* Emitter connects to .68V junction (emit3 = TR-4 base).
Q3    out   base3  emit3  Q2N2924
R15   base3   0     680K

* --- Emitter / TR-4 base junction (.68V) ---
* R16 (10K) provides DC emitter current path to ground.
* TR-3 emitter and TR-4 base share this node directly.
R16   emit3   0     10K

* --- TR-4: LED driver buffer (2N2924 NPN, common-emitter) ---
* Base driven directly from TR-3 emitter (.68V junction).
* Emitter grounded. Collector shares output node with TR-3.
* TR-4 provides the bulk of collector current (~1.9mA)
* and the large output swing (11.5 Vpp).
Q4    out   emit3  0     Q2N2924

* --- Shared collector load: R17 (4.7K) from Vcc to output ---
* In real circuit: Vcc -> LG-1 pin 2 (LED anode) -> LED ->
* pin 1 (cathode) -> 4.7K -> output node. LED adds ~1.5V drop.
* Approximated here as direct 4.7K to Vcc.
R17   vcc   out    4.7K

* --- Stray cap on output (prevent trapezoidal oscillation) ---
Cpar  out   0      1P

* --- Supply ---
V1    vcc   0      DC 15

* --- Self-oscillating: high input impedance to avoid loading output ---
.input_impedance 10MEG

* --- Device model ---
.model Q2N2924 NPN(IS=1.4e-14 BF=200)
