* Neve 1073 Output Amplifier (BA283 AM)
* Class A, 3 BJTs: TR1/TR2 (BC184C) + TR3 (2N3055), LO1166 output transformer.
* From Neve drawing EX/10 283 (BA283 AM & AV).
*
* Topology: CE input (TR1) -> Darlington CE (TR2+TR3) -> LO1166 transformer
* TR2/TR3 DC-connected pair, common collectors to transformer primary.
* Bias: R8/R6 DC feedback divider from TR1 collector through RV1 to TR1 base.
* AC NFB: C4 from Darlington collectors through R1 to TR1 emitter.
* Gain: External R+C from emit1 to ground (pins K/J) shunt R5.
*   Lower R = lower emitter Z = less feedback attenuation = higher gain.
*
* Gain table (balanced/unbalanced):
*   15/11 dB: R=open  25/21 dB: R=470   35/31 dB: R=110

* --- Input coupling ---
C1    in     base1   10U

* --- TR1: CE input stage (BC184C) ---
R2    base1  0       56K

* DC feedback divider: R8 from TR1 collector, R6 to ground
R8    coll1  bias_node  33K
R6    bias_node  0      18K
RV1   bias_node  base1  2.35K

* Collector load
R3    coll1  vcc     68K
Q1    coll1  base1   emit1  QBC184C

* Miller compensation
C2    coll1  base1   220P

* Emitter degeneration (DC bias)
R5    emit1  0       3.3K
C5    emit1  0       330P

* --- Feedback network ---
* C4 AC NFB from Darlington collectors, through R1 to emitter.
* C3 bypasses R1 above ~15 kHz (increases HF feedback = HF rolloff).
C4    coll_dar  fb_node  100U
R1    fb_node   emit1    2.2K
C3    fb_node   emit1    4700P

* Gain setting: R in series with C, across R5 from emit1 to ground (25 dB balanced)
* Pins K (emit1) and J (ground). Lower R = higher gain.
* At AC (above ~4 Hz), R_gain||R5 sets effective emitter impedance.
R_gain emit1    gain_mid  470
C_gain gain_mid 0         80U

* --- TR2 + TR3: Darlington CE pair ---
Q2    coll_dar  coll1    dar_mid  QBC184C

* Darlington bleed resistor
R4    dar_mid  0       1.2K

* TR3 — Class A output
Q3    coll_dar  dar_mid  emit3  Q2N3055

* TR3 emitter resistor (~70 mA bias)
R7    emit3  0       47

* --- LO1166 Output Transformer (Carnhill VTB1148 / Marinair LO1166) ---
* DC-gapped (0.003" kraft) at ~70 mA Class A bias. Turns ratio 1:1.68.
* Marinair spec: L_pri = 1.9 H (from XL at 20 Hz, no DC bias).
* Under DC bias, gapped core inductance drops — Carnhill measured 380 mH
* at 20 Hz/750 mA. Using Marinair's 1.9 H as starting point; tune if
* LF rolloff is too early in simulation.
* Marinair DCR: pri 14.2 ohm, sec 43.6 ohm.  Carnhill: 12/40.
R_dcr_pri vcc     pri_w   14
L_pri     pri_w   coll_dar 1.9

R_dcr_sec out_w   out     44
L_sec     out_w   0       5.36

K1 L_pri L_sec 0.99

* --- Output load (600 ohm) ---
R_load  out  0  600

* --- Supply ---
C6    vcc    0   100U
VCC   vcc   0   DC 24

* --- Device models ---

.model QBC184C NPN(IS=1.8e-14 BF=420 NF=1 VAF=80
+ IKF=0.1 ISE=1e-30 NE=1.5 BR=20 NR=1 VAR=12
+ IKR=3e-4 RB=50 RE=0.5 RC=1
+ CJE=10e-12 VJE=0.7 MJE=0.33 CJC=4e-12 VJC=0.5 MJC=0.33
+ TF=5e-10 TR=1e-7)

.model Q2N3055 NPN(IS=4.66e-12 BF=360 NF=1 VAF=100
+ IKF=0.25 ISE=3.34e-11 NE=1.5 BR=2 NR=1 VAR=20
+ IKR=0.01 RB=3 RE=0.01 RC=0.04
+ CJE=580e-12 VJE=1.2 MJE=0.45 CJC=212e-12 VJC=0.5 MJC=0.4
+ TF=8e-8 TR=2.55e-6)

.END
